US07189851B2
A. tert-Butyl (4R)-4-[(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)carbonyl]-1,3-thiazolidine-3-carboxylate
A was prepared from (4R)-3-(tert-butoxycarbonyl)-1,3-thiazolidine-4-carboxylic acid (5.30 g, 22.7 mmol) and Meldrum's acid according to the previously described procedure used for Example 1C, giving the title compound as yellow solid (7.31 g, 89%). LCMS m/z 358 (M−H). 1H NMR (300 MHz, CDCl3, mixture of rotamers) δ 5.88 (m, 1H), 4.80–4.51 (m, 3H), 369 (m, 1H), 3.05 (m, 1H), 2.0–1.8 (m, 3H), 1.8–1.7 (m, 6H), 1.44 (s, 5H), 1.38 (s, 4H) ppm.

reactant | (4R)-3-(tert-butoxycarbonyl)-1,3-thiazolidine-4-carboxylic acid | 22.7 mmol, 5.30 g | C(C)(C)(C)OC(=O)N1CSC[C@H]1C(=O)O | C9H15NO4S
reactant | Meldrum's acid | CC1(OC(=O)CC(=O)O1)C | C6H8O4
product | tert-Butyl (4R)-4-[(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)carbonyl]-1,3-thiazolidine-3-carboxylate | 7.31 g, 89% | CC1(OC(C(C(O1)=O)C(=O)[C@H]1N(CSC1)C(=O)OC(C)(C)C)=O)C | C15H21NO7S
